US05292907
reaction of valerolactone with methyl alcohol in the presence of sulphuric acid to produce methyl 5-hydroxypentanoate,

reactant | valerolactone | C1(CCCCO1)=O | C5H8O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methyl alcohol | CO | CH4O
product | methyl 5-hydroxypentanoate | OCCCCC(=O)OC | C6H12O3
